US05041232
N-(4-Chlorobenzylidene)-4-carboxybenzenesulfonamide SULF-3)
In a similar manner to Example 2, 4.00 g (29 mmol) of 4-chlorobenzaldehyde, 5.72 g (29 mmol) of 4-carboxybenzenesulfonamide and 20 mg of TsOH in 150 mL of toluene were heated for 24 hours to provide 6.60 g (71%) of SULF-3 as a light tan powder: IR (Nujol) 3400-2500 (br), 1685, 1595, 1285, 1215, 1005 cm-1 ; 1H NMR (DMSO-d6, TMS ext std) δ9.15 (s, 1), 8.2-7.3 (m, 8).

reactant | 4-chlorobenzaldehyde | 29 mmol, 4.00 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 4-carboxybenzenesulfonamide | 29 mmol, 5.72 g | C(=O)(O)C1=CC=C(C=C1)S(=O)(=O)N | C7H7NO4S
reactant | TsOH | 20 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-Chlorobenzylidene)-4-carboxybenzenesulfonamide | ClC1=CC=C(C=NS(=O)(=O)C2=CC=C(C=C2)C(=O)O)C=C1 | C14H10ClNO4S
